USRE028939
A mixture of 5.0 g. of 3-amino-5-trifluoromethylindazole, prepared as in Example 1, and 25 ml. of methyl formate is refluxed for eight hours, then concentrated in vacuo to leave crude 3-formylamino-5-trifluoromethylindazole.

reactant | 3-amino-5-trifluoromethylindazole | NC1=NNC2=CC=C(C=C12)C(F)(F)F | C8H6F3N3
reactant | methyl formate | C(=O)OC | C2H4O2
product | 3-formylamino-5-trifluoromethylindazole | C(=O)NC1=NNC2=CC=C(C=C12)C(F)(F)F | C9H6F3N3O
